US05424320
Step 1: 7-Methylcoumarin-4-yl trifluoromethanesulfonate
To a solution of 4-hydroxy-7-methylcoumarin (2.17 g, 12.3 mmol) (Anschutz et al, Liebigs Ann. Chem. 1909, 367,219) in 20 mL CH2CL2 at 0° C. was added Et3N (1.48 g, 14.8 mmol) and trifluoromethanesulfonic anhydride (4.18 g, 14.8 mmol). The mixture was stirred for 2.5 h at 0° C., then 50 mL of hexane/Et20 (1:1) was added. The solvent was evaporated and the residue chromatographed over silica gel using 30% EtOAc in hexane as eluant to give 2.8 g (74%) of the title compound as a white solid, m.p. 95-96° C.

reactant | 4-hydroxy-7-methylcoumarin | 12.3 mmol, 2.17 g | OC1=CC(OC2=CC(=CC=C12)C)=O | C10H8O3
reactant | Et3N | 14.8 mmol, 1.48 g | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 14.8 mmol, 4.18 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | hexane | 50 mL | CCCCCC | C6H14
product | 7-Methylcoumarin-4-yl trifluoromethanesulfonate | 2.8 g, 74% | FC(S(=O)(=O)OC1=CC(OC2=CC(=CC=C12)C)=O)(F)F | C11H7F3O5S
